US04788207
In a manner similar to Step D of Example 1, the reaction of 1.3 gram (0.013 mole) of phenylacetylene, 50 ml of triethylamine, 3.2 grams (0.011 mole) of 5-iodo-2-(thien-2-yl)thiazole, 0.080 gram (1.1×10-4 mole) of dichlorobis(triphenylphosphine)palladium (II), and 0.022 gram (1.1×10-4 mole) of copper(I) iodide produced 2.1 grams of 1-phenyl-2-[2-(thien-2-yl)thiazol-5-yl]ethyne as a solid, m.p. 94°-96° C., Compound 22 of Table 1.

reactant | phenylacetylene | 0.013 mole, 1.3 gram | C1(=CC=CC=C1)C#C | C8H6
reactant | 5-iodo-2-(thien-2-yl)thiazole | 0.011 mole, 3.2 grams | IC1=CN=C(S1)C=1SC=CC1 | C7H4INS2
catalyst | dichlorobis(triphenylphosphine)palladium | 1.1×10-4 mole, 0.080 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.1×10-4 mole, 0.022 gram | [Cu]I
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | 1-phenyl-2-[2-(thien-2-yl)thiazol-5-yl]ethyne | 2.1 grams | C1(=CC=CC=C1)C#CC1=CN=C(S1)C=1SC=CC1 | C15H9NS2
